US08008518B2
199.3 g of a mixture containing di-n-butyl diacetoxy tin, tri-n-butyl acetoxy tin and 1,1,3,3-tetra-n-butyl-1,3-diacetoxy distannoxane was obtained by carrying out the same method as step (2-2) of Example 2 with the exception of using 200.1 g of the mixture obtained in step (5-1) instead of the mixture obtained in step (2-1). The content of di-n-butyl diacetoxy tin in this mixture was 63.7 wt %, the content of tri-n-butyl acetoxy tin was about 1 wt %, and the content of 1,1,3,3-tetra-n-butyl-1,3-diacetoxy distannoxane was 32.3 wt %.

reactant | di-n-butyl diacetoxy tin | C(CCC)[Sn](OC(C)=O)(OC(C)=O)CCCC
reactant | tri-n-butyl acetoxy tin | C(CCC)[Sn](OC(C)=O)(CCCC)CCCC
product | 1,1,3,3-tetra-n-butyl-1,3-diacetoxy distannoxane | C(CCC)[Sn](O[Sn](OC(C)=O)(CCCC)CCCC)(OC(C)=O)CCCC | InChI=1S/4C4H9.2C2H4O2.O.2Sn/c4*1-3-4-2;2*1-2(3)4;;;/h4*1,3-4H2,2H3;2*1H3,(H,3,4);;;/q;;;;;;;2*+1/p-2
